US03989689
To the solution of 444 g of methyl 4-chloro-anthranilate in 1.3 lt of benzene and 199 ml of pyridine, that of 406 g of 3-carbomethoxy-propionyl chloride in 200 ml of benzene is added dropwise while stirring and cooling with ice. The mixture is stirred for 19 hours at room temperature, filtered and the filtrate evaporated. The combined residues are taken up in 3 lt of chloroform, the solution washed with water, 1 lt of N hydrochloric acid, 1 lt of 10% aqueous sodium bicarbonate and again with water, dried, filtered, evaporated and the residue recrystallized from acetonitrile, to yield the methyl N-(3-carbomethoxypropionyl)-4-chloroanthranilate melting at 80°-84°.

reactant | methyl 4-chloro-anthranilate | 444 g | ClC=1C=C(C(C(=O)OC)=CC1)N | C8H8ClNO2
reactant | pyridine | 199 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-carbomethoxy-propionyl chloride | 406 g | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | methyl N-(3-carbomethoxypropionyl)-4-chloroanthranilate | C(=O)(OC)CCC(=O)NC=1C(C(=O)OC)=CC=C(C1)Cl | C13H14ClNO5
